US05175162
A mixture of 1.0 g of 9-(2-hydroxyethyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one, 2 ml of triethylamine and 2 ml of acetic anhydride in 20 ml of toluene is kept on a water bath at 80°-85° C. for 3 hours. After cooling, to the mixture is added water, the organic layer is collected by a separatory funnel and concentrated. To the residue is added hexane and the precipitated crystals are collected by filtration. The resulting crystals are recrystallized from isopropyl ether to give 0.5 g of 9-(2-acetoxyethyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as white crystals, melting at 106°-108° C.

reactant | 9-(2-hydroxyethyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 1.0 g | OCCC1=CC2=C(SCCC3C2=NNC(C3)=O)S1 | C12H14N2O2S2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(2-acetoxyethyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 0.5 g | C(C)(=O)OCCC1=CC2=C(SCCC3C2=NNC(C3)=O)S1 | C14H16N2O3S2
